US05849743
e) 6-Chloro-1-(ethoxycarbonylmethyl)-7-nitroquinoxaline-2,3(1H,4H)-dione
69.8 g (0.25 mol) of 6-chloro-1-(ethoxycarbonylmethyl)quinoxaline-2,3(1H,4H)-dione were dissolved in 625 ml of concentrated sulfuric acid and, at 0° C., 25 g (0.25 mol) of potassium nitrate were added in portions. The cooling was then removed and the mixture was stirred further. After reaction was complete, the mixture was poured into ice-water and the precipitate was filtered off with suction. 77.8 g (95%) of the product were obtained.

reactant | 6-chloro-1-(ethoxycarbonylmethyl)quinoxaline-2,3(1H,4H)-dione | 0.25 mol, 69.8 g | ClC=1C=C2NC(C(N(C2=CC1)CC(=O)OCC)=O)=O | C12H11ClN2O4
reactant | potassium nitrate | 0.25 mol, 25 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 625 ml | S(O)(O)(=O)=O | H2O4S
product | 6-Chloro-1-(ethoxycarbonylmethyl)-7-nitroquinoxaline-2,3(1H,4H)-dione | 77.8 g, 95% | ClC=1C=C2NC(C(N(C2=CC1[N+](=O)[O-])CC(=O)OCC)=O)=O | C12H10ClN3O6
